US08865726B2
To a solution of hydrazine hydrate (1.96 mL, 40.4 mmol) in acetic acid (91.9 mL, 36.8 mmol) was added (E)-4-bromo-N-((dimethylamino)methylene)benzamide (9.38 g, 36.8 mmol) and the mixture stirred at 90° C. for 1.5 hours. The reaction mixture was concentrated to about 10 mL and diluted with ether (50 mL). The resulting white solid was collected by vacuum filtration, rinsing with excess ether, and dried to afford 5-(4-bromophenyl)-1H-1,2,4-triazole (5.48 g, 66%) which was carried on without further purification. LCMS (APCI+) m/z 224, 226 [M+H]+.

reactant | hydrazine hydrate | 40.4 mmol, 1.96 mL | O.NN
reactant | acetic acid | 36.8 mmol, 91.9 mL | C(C)(=O)O | C2H4O2
reactant | (E)-4-bromo-N-((dimethylamino)methylene)benzamide | 36.8 mmol, 9.38 g | BrC1=CC=C(C(=O)/N=C/N(C)C)C=C1 | C10H11BrN2O
product | 5-(4-bromophenyl)-1H-1,2,4-triazole | 5.48 g, 66% | BrC1=CC=C(C=C1)C1=NC=NN1 | C8H6BrN3
